US05370861
1-(Ethyloxycarbonyloxy)ethyl 5-(N-acetylamino)-3-(N-methylaminocarbonyl) -2,4,6-triiodobenzenecarboxylate
1-Chloroethyl ethyl carbonate (1.67 g, 11.0 mmol) was added dropwise at room temperature to a solution of potassium 5-(N-acetylamino) -3-(N-methylaminocarbonyl)-2,4,6-triiodobenzenecarboxylate (6.52 g, 10.0 retool) and sodium iodide (150 rag, 1.0 retool) in dry DMF (50 ml). After stirring at 50° C. for 24 hours the solvent was removed at reduced pressure. The residue was dissolved in chloroform and washed four times with a saturated sodium hydrogen carbonate solution and twice with water. After drying with magnesium sulfate and filtration, the solvent was removed at reduced pressure to give the title compound. Yield: (2.2 g, 38 %). Purity by HPLC: 98%. 1H-NMR (DMSO (DMSO-6 ): delta=1.24 (t, J=7 Hz, CH3); 1.63 (d, J=6 Hz, CH3); 2.03 (s, CH3CO); 2.75 (d, J=3 Hz, NCH3); 4.21 (q, J=7 Hz, CH2): 6.93 (q, J=6 Hz, CH); 8.4-8.7 (m, NHMe); 10.03 ppm (s, NHAc).

reactant | 1-Chloroethyl ethyl carbonate | 11.0 mmol, 1.67 g | C(OC(C)Cl)(OCC)=O | C5H9ClO3
reactant | potassium 5-(N-acetylamino) -3-(N-methylaminocarbonyl)-2,4,6-triiodobenzenecarboxylate | 6.52 g | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)[O-])I)C(=O)NC)I.[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-(Ethyloxycarbonyloxy)ethyl 5-(N-acetylamino)-3-(N-methylaminocarbonyl) -2,4,6-triiodobenzenecarboxylate | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)OC(C)OC(=O)OCC)I)C(=O)NC)I | C16H17I3N2O7
